US09120749B2
(6-(3-chloro-5-fluoro-4-hydroxyphenyl)-4-((trans-4-((3-methoxypyrrolidin-1-yl)methyl)cyclohexyl)amino)quinolin-3-yl)(cyclopropyl)methanone
Following general procedure M, (6-bromo-4-((trans-4-((3-methoxypyrrolidin-1-yl)methyl)cyclohexyl)amino)quinolin-3-yl)(cyclopropyl)methanone (49 mg, 0.10 mmol) was reacted with 2-chloro-6-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol (41 mg, 0.15 mmol) to afford the desired product (34 mg, 62%) as an off-white solid. 1H NMR (500 MHz, MeOD+TFA-d) δ 9.35 (br s, 1H), 8.47 (br s, 1H), 8.26 (dd, J=8.8, 1.8 Hz, 1H), 7.98 (d, J=8.7 Hz, 1H), 7.59 (br s, 1H), 7.51 (d, J=11.4 Hz, 1H), 4.50 (br s, 1H), 4.18 (d, J=19.4 Hz, 1H), 3.85-3.74 (m, 2H), 3.36 (s, 3H), 3.22-3.13 (m, 3H), 2.84 (s, 1H), 2.45-2.29 (m, 3H), 2.22-2.05 (m, 4H), 1.80-1.71 (m, 2H), 1.35-1.19 (m, 6H). ESI MS m/z 552 [C31H35ClFN3O3+H]+; HPLC>99% (AUC), tR=11.30 min.

reactant | (6-bromo-4-((trans-4-((3-methoxypyrrolidin-1-yl)methyl)cyclohexyl)amino)quinolin-3-yl)(cyclopropyl)methanone | 0.10 mmol, 49 mg | BrC=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)N[C@@H]1CC[C@H](CC1)CN1CC(CC1)OC | C25H32BrN3O2
reactant | 2-chloro-6-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol | 0.15 mmol, 41 mg | ClC1=C(C(=CC(=C1)B1OC(C(O1)(C)C)(C)C)F)O | C12H15BClFO3
product | (6-(3-chloro-5-fluoro-4-hydroxyphenyl)-4-((trans-4-((3-methoxypyrrolidin-1-yl)methyl)cyclohexyl)amino)quinolin-3-yl)(cyclopropyl)methanone | 34 mg, 62% | ClC=1C=C(C=C(C1O)F)C=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)N[C@@H]1CC[C@H](CC1)CN1CC(CC1)OC | C31H35ClFN3O3
